* File: FA_2017.pex.netlist.pex
* Created: Fri Jun 19 18:14:17 2020
* Program "Calibre xRC"
* Version "v2015.4_16.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_FA_2017_B 1 3 9 13 15 16 17 20 23 31 39 40 48 53
c85 48 0 0.0287792f
c86 40 0 0.143815f
c87 39 0 0.060534f
c88 31 0 0.0428092f
c89 23 0 0.0382049f
c90 20 0 0.0287167f
c91 17 0 0.0260099f
c92 16 0 0.00403703f
c93 15 0 0.00940641f
c94 13 0 0.0304828f
c95 9 0 0.0353589f
r96 48 53 1.65146
r97 47 48 80.1018
r98 43 44 88.2939
r99 39 43 2.21795
r100 39 40 88.2939
r101 35 36 88.2939
r102 32 40 5.81922
r103 31 35 3.72872
r104 31 32 88.2939
r105 28 32 3.39765
r106 27 28 88.2939
r107 24 53 0.737405
r108 23 27 1.02381
r109 23 24 88.2939
r110 20 44 0.491625
r111 17 36 0.532
r112 15 47 5.73405
r113 15 16 0.477301
r114 11 16 5.3213
r115 11 13 40.95
r116 7 16 5.3213
r117 7 9 58.5
r118 3 20 0.0578261
r119 1 17 0.192989
.ends

.subckt PM_FA_2017_A 1 3 9 13 15 18 26 31 38 45
c73 38 0 0.0311875f
c74 31 0 0.144218f
c75 26 0 0.055202f
c76 18 0 0.0432976f
c77 16 0 0.00403703f
c78 15 0 0.00940641f
c79 13 0 0.0304828f
c80 9 0 0.0351783f
c81 3 0 0.0135327f
c82 1 0 0.016778f
r83 38 45 2.49362
r84 37 38 80.1018
r85 30 33 0.658163
r86 30 31 88.2939
r87 26 30 2.10204
r88 22 45 88.2939
r89 19 31 10.0141
r90 18 22 1.17857
r91 18 19 88.2939
r92 15 37 5.73405
r93 15 16 0.477301
r94 11 16 5.3213
r95 11 13 42.12
r96 7 16 5.3213
r97 7 9 58.5
r98 3 26 88.2939
r99 1 33 88.2939
.ends

.subckt PM_FA_2017_VDD 2 5 17 20 32 35 53 54 55 56 57 58 59 60 61 62 68 73 78 82
+ 86 88 89 94 96 97 100 103 106
c113 107 0 0.00614069f
c114 106 0 0.115277f
c115 104 0 0.00614069f
c116 103 0 0.051697f
c117 101 0 0.00614069f
c118 100 0 0.0461056f
c119 97 0 0.00331851f
c120 96 0 0.0253811f
c121 94 0 5.65869e-19
c122 89 0 0.006233f
c123 88 0 0.0237983f
c124 86 0 5.65677e-19
c125 78 0 5.60744e-19
c126 75 0 0.00714627f
c127 73 0 2.40575e-19
c128 70 0 0.00729265f
c129 68 0 0.0977065f
c130 58 0 0.00603851f
c131 57 0 0.00535469f
c132 56 0 0.0211052f
c133 55 0 0.0194747f
c134 54 0 0.0219332f
c135 53 0 0.0163438f
c136 35 0 0.00331068f
c137 32 0 0.00544515f
c138 20 0 0.00331068f
c139 17 0 0.00545554f
c140 5 0 0.00331068f
c141 2 0 0.00547658f
r142 96 97 88.2939
r143 93 96 2.28571
r144 93 107 1.51964
r145 93 94 88.2939
r146 88 89 88.2939
r147 85 88 2.29464
r148 85 104 1.55536
r149 85 86 88.2939
r150 82 103 5.25
r151 82 101 1.21429
r152 77 100 5.29286
r153 77 78 88.2939
r154 75 77 2.43036
r155 72 106 12.3286
r156 72 73 88.2939
r157 70 72 2.43036
r158 68 75 0.197041
r159 67 70 0.197041
r160 67 68 2.25278
r161 62 86 88.2939
r162 61 94 88.2939
r163 60 78 88.2939
r164 59 73 88.2939
r165 58 89 88.2939
r166 57 97 88.2939
r167 56 62 0.690667
r168 55 61 0.690667
r169 54 60 0.690667
r170 53 59 0.690667
r171 34 107 0.256897
r172 34 106 0.260345
r173 34 35 88.2939
r174 32 35 88.2939
r175 19 104 0.256897
r176 19 103 0.260345
r177 19 20 88.2939
r178 17 20 88.2939
r179 4 101 0.256897
r180 4 100 0.260345
r181 4 5 88.2939
r182 2 5 88.2939
.ends

.subckt PM_FA_2017_GND 2 5 17 20 32 35 49 50 51 52 53 54 59 60 61 62 70 72 75 80
+ 83 87 88 92 95 97 99 102
c112 103 0 0.00655808f
c113 102 0 0.0500114f
c114 100 0 0.00653022f
c115 99 0 0.0354583f
c116 97 0 0.0984849f
c117 95 0 0.00534547f
c118 92 0 5.65764e-19
c119 88 0 0.0478405f
c120 83 0 0.00534547f
c121 80 0 5.59567e-19
c122 75 0 5.59567e-19
c123 72 0 0.139198f
c124 70 0 2.48377e-19
c125 54 0 0.00570931f
c126 53 0 0.00595626f
c127 52 0 0.0201586f
c128 51 0 0.02176f
c129 50 0 0.0172268f
c130 49 0 0.0230191f
c131 35 0 0.00331068f
c132 32 0 0.00546208f
c133 20 0 0.0032867f
c134 17 0 0.00541864f
c135 5 0 0.0032867f
c136 2 0 0.00538872f
r137 96 97 2.24444
r138 94 95 88.2939
r139 91 94 2.24107
r140 91 103 1.56429
r141 91 92 88.2939
r142 88 97 0.598128
r143 88 94 2.43571
r144 87 102 5.36607
r145 87 100 1.09821
r146 82 83 88.2939
r147 79 82 2.25
r148 79 80 88.2939
r149 74 75 88.2939
r150 72 96 0.633597
r151 72 82 2.42679
r152 69 99 5.28393
r153 69 70 88.2939
r154 62 92 88.2939
r155 61 80 88.2939
r156 60 70 88.2939
r157 59 75 88.2939
r158 54 95 88.2939
r159 53 83 88.2939
r160 52 62 0.670667
r161 51 61 0.670667
r162 50 60 0.670667
r163 49 59 0.670667
r164 34 79 1.79464
r165 34 74 12.5893
r166 34 35 88.2939
r167 32 35 88.2939
r168 19 103 0.243193
r169 19 102 0.246418
r170 19 20 88.2939
r171 17 20 88.2939
r172 4 100 0.243193
r173 4 99 0.246418
r174 4 5 88.2939
r175 2 5 88.2939
.ends

.subckt PM_FA_2017_NET62 1 4 5 8 11 19 24
c47 24 0 0.0568708f
c48 19 0 0.0614721f
c49 11 0 0.0202238f
c50 8 0 0.0643602f
c51 4 0 0.0294333f
c52 1 0 0.0159952f
r53 23 24 88.2939
r54 19 23 2.82143
r55 19 20 88.2939
r56 12 24 3.8298
r57 11 15 1.39362
r58 11 12 88.2939
r59 8 20 4.02139
r60 4 5 2.89385
r61 4 15 88.2939
r62 1 8 0.106158
.ends

.subckt PM_FA_2017_NET60 1 4 5 15 17 18
c38 18 0 0.0349061f
c39 17 0 0.0489443f
c40 15 0 0.0015418f
c41 5 0 0.0131944f
c42 4 0 0.0261536f
c43 1 0 0.0138409f
r44 17 21 3.50532
r45 17 18 88.2939
r46 14 18 1.87687
r47 14 15 0.0235295
r48 10 15 0.184185
r49 6 15 0.184185
r50 5 10 0.984103
r51 4 6 1.43231
r52 1 21 88.2939
.ends

.subckt PM_FA_2017_NET56 1 2 7 11 13 14 21 25 27 28 44 45 47 50
c74 50 0 0.0871225f
c75 47 0 0.0329473f
c76 45 0 0.0683099f
c77 44 0 0.00139675f
c78 28 0 0.00386111f
c79 27 0 0.0320936f
c80 25 0 0.0362619f
c81 21 0 0.0366231f
c82 14 0 0.00386111f
c83 13 0 0.0315884f
c84 11 0 0.0362619f
c85 7 0 0.0366231f
c86 2 0 0.0191324f
c87 1 0 0.0171272f
r88 54 55 88.2939
r89 50 54 4.19898
r90 50 51 88.2939
r91 47 51 1.64008
r92 45 55 1.87172
r93 43 55 2.85619
r94 43 44 0.0190902
r95 40 44 0.190294
r96 37 44 0.190294
r97 29 47 0.221829
r98 29 30 89.3538
r99 27 30 30.9326
r100 27 28 0.364951
r101 23 28 5.11323
r102 23 25 50.466
r103 19 28 5.11323
r104 19 21 50.934
r105 15 45 0.279361
r106 15 16 89.3538
r107 13 16 30.9326
r108 13 14 0.364951
r109 9 14 5.11323
r110 9 11 50.466
r111 5 14 5.11323
r112 5 7 50.934
r113 2 40 1.40057
r114 1 37 1.33543
.ends

.subckt PM_FA_2017_NET67 1 2 9 13 15 16 25 28
c42 28 0 0.00280848f
c43 25 0 0.0426821f
c44 16 0 0.00241281f
c45 15 0 0.0120867f
c46 13 0 0.0304828f
c47 9 0 0.0353589f
c48 2 0 0.0161402f
c49 1 0 0.0261942f
r50 25 26 80.1018
r51 23 28 0.0386639
r52 23 25 3.84011
r53 20 28 0.164716
r54 17 28 0.164716
r55 15 26 9.10703
r56 15 16 0.477301
r57 11 16 5.3213
r58 11 13 42.12
r59 7 16 5.3213
r60 7 9 57.33
r61 2 20 1.09657
r62 1 17 1.71543
.ends

.subckt PM_FA_2017_NET65 1 2 9 13 15 16 25 28
c44 28 0 0.00102721f
c45 25 0 0.0450877f
c46 16 0 0.00241281f
c47 15 0 0.0122736f
c48 13 0 0.0304828f
c49 9 0 0.0353589f
c50 2 0 0.0154265f
c51 1 0 0.0192707f
r52 25 26 80.1018
r53 23 28 0.0386639
r54 23 25 3.88233
r55 20 28 0.164716
r56 17 28 0.164716
r57 15 26 9.10703
r58 15 16 0.477301
r59 11 16 5.3213
r60 11 13 42.12
r61 7 16 5.3213
r62 7 9 58.5
r63 2 20 1.12914
r64 1 17 1.68286
.ends

.subckt PM_FA_2017_NET64 3 7 9 11 12 23 26
c34 26 0 0.00150287f
c35 23 0 0.00796812f
c36 12 0 0.0124055f
c37 11 0 0.0176949f
c38 10 0 0.00403703f
c39 9 0 0.0114518f
c40 7 0 0.0304828f
c41 3 0 0.0360813f
r42 23 24 80.1018
r43 21 26 0.0508427
r44 21 23 0.515111
r45 17 26 0.150463
r46 13 26 0.150463
r47 12 17 1.07179
r48 11 13 1.44205
r49 9 24 7.20973
r50 9 10 0.477301
r51 5 10 5.3213
r52 5 7 42.12
r53 1 10 5.3213
r54 1 3 57.33
.ends

.subckt PM_FA_2017_NET66 3 7 9 11 12 23 26
c34 26 0 0.00143207f
c35 23 0 0.00795057f
c36 12 0 0.0139491f
c37 11 0 0.0185271f
c38 10 0 0.00403703f
c39 9 0 0.0114705f
c40 7 0 0.0309113f
c41 3 0 0.0360813f
r42 23 24 80.1018
r43 21 26 0.0508427
r44 21 23 0.515111
r45 17 26 0.150463
r46 13 26 0.150463
r47 12 17 1.07179
r48 11 13 1.47128
r49 9 24 7.20973
r50 9 10 0.477301
r51 5 10 5.3213
r52 5 7 42.12
r53 1 10 5.3213
r54 1 3 58.5
.ends

.subckt PM_FA_2017_SUM 1 2 7
c12 1 0 0.0430867f
r13 2 7 1.61744
r14 1 7 1.24718
.ends

.subckt PM_FA_2017_COUT 1 2 7
c11 1 0 0.0438909f
r12 2 7 1.61744
r13 1 7 1.27641
.ends

.subckt PM_FA_2017_CIN 3 7 9 10 11 17
c23 11 0 0.00481446f
c24 10 0 0.00386111f
c25 9 0 0.0336586f
c26 7 0 0.0362619f
c27 3 0 0.0366231f
r28 11 17 0.249209
r29 11 12 89.3538
r30 9 12 30.9326
r31 9 10 0.364951
r32 5 10 5.11323
r33 5 7 50.466
r34 1 10 5.11323
r35 1 3 50.934
.ends

