* File: TGFA_2010.pex.netlist.pex
* Created: Sat Jun 20 13:53:11 2020
* Program "Calibre xRC"
* Version "v2015.4_16.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_TGFA_2010_B 3 7 9 11 15 17 18 21 30
c40 21 0 0.00753983f
c41 18 0 0.00381828f
c42 17 0 0.00747714f
c43 15 0 0.0201936f
c44 7 0 0.029699f
c45 3 0 0.0260831f
r46 21 24 5.49772
r47 21 23 5.77629
r48 18 21 89.3538
r49 17 18 88.2939
r50 14 17 1.64062
r51 14 15 88.2939
r52 11 14 0.18125
r53 9 30 0.502143
r54 9 15 2.26643
r55 7 24 61.23
r56 3 23 52.65
.ends

.subckt PM_TGFA_2010_VDD 3 4 5 8 9 10 13 15 17 18 22
c49 22 0 0.00331068f
c50 18 0 0.0031997f
c51 17 0 0.048194f
c52 13 0 0.00285309f
c53 10 0 0.0151637f
c54 9 0 0.0703107f
c55 8 0 0.0216051f
c56 5 0 0.00554536f
c57 4 0 0.00554215f
c58 3 0 0.00723743f
r59 21 22 88.2939
r60 17 18 88.2939
r61 15 17 0.157522
r62 12 15 0.125664
r63 12 13 88.2939
r64 10 12 0.6
r65 9 10 0.141761
r66 8 21 0.110413
r67 8 9 1.22143
r68 5 13 88.2939
r69 4 22 88.2939
r70 3 18 88.2939
.ends

.subckt PM_TGFA_2010_A 4 7 9 10 11 12 25 27 31 33 34 38 41
c59 41 0 0.0079539f
c60 38 0 0.0093053f
c61 34 0 0.0140773f
c62 33 0 0.0141641f
c63 31 0 0.00386188f
c64 25 0 5.21859e-19
c65 12 0 0.00927997f
c66 10 0 0.0334126f
c67 9 0 0.00573113f
c68 7 0 0.0231821f
c69 4 0 0.0574755f
r70 41 44 5.49772
r71 41 43 5.77629
r72 33 34 88.2939
r73 31 41 89.3538
r74 30 33 1.59375
r75 30 31 88.2939
r76 27 30 0.735937
r77 21 25 0.160909
r78 17 25 0.160909
r79 15 38 3.98069
r80 14 15 89.3538
r81 12 25 0.0418175
r82 12 14 1.01514
r83 11 34 1.34357
r84 10 17 3.20286
r85 9 21 0.692143
r86 7 44 33.15
r87 4 43 80.73
r88 1 38 1.86242
r89 1 4 73.32
.ends

.subckt PM_TGFA_2010_NET11 3 5 6 11 15 20 23 25 26 29 32 33 34 35 36 41 42 43 58
+ 59 63 66 67 68
c132 68 0 0.061242f
c133 67 0 0.00374435f
c134 66 0 0.0492868f
c135 63 0 0.00422228f
c136 59 0 0.0432714f
c137 58 0 0.042927f
c138 43 0 0.00591009f
c139 42 0 0.00174652f
c140 41 0 0.0065493f
c141 35 0 0.018898f
c142 34 0 0.00995534f
c143 33 0 0.00274878f
c144 32 0 0.0147521f
c145 31 0 0.00247246f
c146 29 0 0.0172534f
c147 26 0 0.00434219f
c148 25 0 0.0293996f
c149 23 0 0.054388f
c150 20 0 0.0231474f
c151 15 0 0.0295338f
c152 11 0 0.022054f
c153 6 0 0.00429563f
c154 5 0 0.014729f
c155 3 0 0.0292899f
r156 66 68 5.36476
r157 66 67 89.3538
r158 62 63 89.3538
r159 58 59 88.2939
r160 55 58 1.5
r161 55 63 88.2939
r162 52 55 1.28125
r163 52 67 88.2939
r164 48 52 1.46875
r165 48 49 88.2939
r166 43 49 0.110152
r167 41 49 0.103394
r168 41 42 1.29437
r169 37 42 0.187062
r170 36 59 1.61172
r171 35 43 3.10786
r172 34 37 0.800714
r173 32 62 10.3527
r174 32 33 0.243858
r175 27 29 18.72
r176 25 27 4.36146
r177 25 26 56.8286
r178 21 33 4.89813
r179 21 23 90.48
r180 18 33 4.89813
r181 18 20 20.67
r182 17 26 4.36146
r183 17 20 29.25
r184 13 15 38.22
r185 12 31 2.93573
r186 11 13 4.38573
r187 11 12 35.9478
r188 7 31 1.18301
r189 7 68 160.68
r190 5 31 2.93573
r191 5 6 30.8609
r192 1 6 4.38573
r193 1 3 37.83
.ends

.subckt PM_TGFA_2010_NET21 3 7 11 13 14 15 29 33 35 40 43 44 47 52 57
c90 57 0 0.00878233f
c91 52 0 0.0126088f
c92 47 0 0.0128033f
c93 44 0 0.00615704f
c94 43 0 0.00603747f
c95 40 0 0.029832f
c96 35 0 0.0148533f
c97 33 0 0.00221791f
c98 29 0 0.00241014f
c99 15 0 0.0276681f
c100 14 0 0.0166789f
c101 13 0 0.00146199f
c102 11 0 0.0218317f
c103 7 0 0.0172534f
c104 3 0 0.0138403f
r105 57 59 5.63701
r106 52 55 5.63701
r107 47 50 5.63701
r108 44 57 89.3538
r109 43 44 88.2939
r110 39 43 1.19643
r111 39 40 88.2939
r112 36 40 1.78878
r113 35 36 88.2939
r114 33 52 89.3538
r115 32 35 1.20536
r116 32 33 88.2939
r117 29 47 89.3538
r118 28 32 2.11607
r119 28 29 88.2939
r120 24 36 1.63122
r121 15 16 2.76195
r122 14 20 0.494
r123 13 20 0.0115966
r124 13 24 0.201043
r125 13 16 0.201043
r126 11 59 24.18
r127 7 55 18.33
r128 3 50 18.72
.ends

.subckt PM_TGFA_2010_GND 1 2 4 8 11 14 16 17
c36 17 0 0.00257377f
c37 16 0 0.0350586f
c38 14 0 0.00188078f
c39 8 0 0.00232271f
c40 4 0 0.0056833f
c41 2 0 0.00568103f
c42 1 0 0.00548953f
r43 16 17 88.2939
r44 13 16 0.396875
r45 13 14 88.2939
r46 11 13 0.113125
r47 7 11 0.193125
r48 7 8 88.2939
r49 4 14 88.2939
r50 2 17 88.2939
r51 1 8 88.2939
.ends

.subckt PM_TGFA_2010_COUT 1 2 3 4 13
c43 13 0 0.031349f
c44 4 0 0.0349859f
c45 3 0 0.0289253f
r46 10 13 0.331667
r47 10 11 88.2939
r48 6 10 4.19167
r49 6 7 88.2939
r50 4 11 1.66929
r51 3 7 1.54621
r52 2 11 2.63286
r53 1 7 2.56828
.ends

.subckt PM_TGFA_2010_CIN 3 7 9 10 11 12 13 15 25 31 32
c73 32 0 0.0020415f
c74 31 0 0.0106209f
c75 25 0 0.0329984f
c76 13 0 0.0327632f
c77 12 0 0.0308541f
c78 11 0 0.027698f
c79 7 0 0.0403527f
c80 3 0 0.0284193f
r81 31 32 89.3538
r82 28 31 4.79143
r83 25 32 88.2939
r84 23 25 3.07031
r85 21 22 88.2939
r86 18 21 2.38393
r87 18 19 88.2939
r88 15 18 3.475
r89 13 23 0.140491
r90 13 21 0.864286
r91 12 22 2.64643
r92 11 19 2.64643
r93 10 22 1.62857
r94 9 19 1.62857
r95 5 28 1.73169
r96 5 7 62.79
r97 1 28 1.73169
r98 1 3 51.09
.ends

.subckt PM_TGFA_2010_SUM 1 2 3 4 5 14 23 24 28 31
c52 31 0 0.0144609f
c53 28 0 0.0281712f
c54 24 0 0.0483687f
c55 23 0 0.0249567f
c56 17 0 0.0024033f
c57 14 0 0.00523929f
c58 5 0 0.00398009f
c59 4 0 0.0165337f
c60 3 0 0.0334038f
r61 27 31 0.516071
r62 27 28 88.2939
r63 23 24 88.2939
r64 19 23 3.15179
r65 16 28 2.90429
r66 16 17 0.165661
r67 15 24 6.03929
r68 15 17 0.165661
r69 10 28 1.05857
r70 5 17 0.0378912
r71 5 14 0.41931
r72 4 10 0.52292
r73 3 19 88.2939
r74 2 14 0.206195
r75 1 3 4.28857
.ends

